US08071776B2
B. Thioacetic acid S-cyclopropylcarbamoylmethyl ester
To a solution of 2-chloro-N-cyclopropyl-acetamide (58.1 g, 0.435 mol) in dichloromethane (700 ml) at 0° C. is added thiolactic acid (49.65 g, 0.652 mol). The mixture is stirred at 0° C. for 5 minutes, then TEA (88.0 g, 0.870 mol) is added very slowly (exothermic reaction). The mixture is stirred at 0° C. for 2 hours, then poured over 700 ml of water with stirring. The aqueous layer is acidified to pH2 with 5 N HCl, and the layers are shaken and separated. The aqueous layer is extracted with dichloromethane (2×400 ml). The combined organic layers are washed with brine, then dried (anhydrous magnesium sulfate), filtered, and concentrated to give the title compound as a yellow-orange solid (74.5 g, 99%). Mass (m/z): 174.1 (M++1).

reactant | 2-chloro-N-cyclopropyl-acetamide | 0.435 mol, 58.1 g | ClCC(=O)NC1CC1 | C5H8ClNO
reactant | thiolactic acid | 0.652 mol, 49.65 g | C(C(O)C)(=S)O | C3H6O2S
reactant | water | 700 ml | O | H2O
reactant | HCl | 5 N | Cl | ClH
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | Thioacetic acid S-cyclopropylcarbamoylmethyl ester | 74.5 g, 99% | C1(CC1)NC(=O)CSC(C)=O | C7H11NO2S
